Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
simvastatin
 
Attending: ___.
 
Chief Complaint:
Double vision, vertigo, unbalanced
 
Major Surgical or Invasive Procedure:
Tracheostomy placement
PEG tube placement

 
History of Present Illness:
___ is a ___ M with a h/o DM, HTN, HLD, BPPV who 
presents with sudden onset nausea, slurred speech, nystagmus, 
clumsiness at noon on ___. The patient was at home ___ his 
normal state of health at symptom onset. He called his wife when 
the symptoms started and laid down to rest on the couch. When 
his wife arrived home 1.5 hours later she noted slurred speech 
and "wiggling eyes." At that time the patient wished to wait it 
out to see if the symptoms would resolve on their own. They did 
not and he presented to ___ around 5pm. At ___ he 
had a CT of the head which was concerning for right transverse 
sinus thrombosis. He then had an MRI/MRV of the brain, which 
showed bilateral cerebellar infarcts and a right thalamic 
infact. He was transferred to ___. His symptoms have been 
constant since onset and has not had any significant worsening. 
They do not seem to be blood pressure or position dependent.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysphagia, lightheadedness, tinnitus or 
hearing difficulty. Denies difficulties producing or 
comprehending speech. Denies focal weakness, numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change ___ bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
BPPV
HTN
HLD
 
Social History:
___
Family History:
___: No h/o strokes, clotting disorders. Mother died of lung 
cancer (smoker)
 
Physical Exam:
ADMISSION EXAM
97.7 81 134/81 20 98% 2L 
GEN: Awake, cooperative, NAD.
HEENT: NC/AT, anicteric, MMM, no lesions noted ___ oropharynx
RESP: Non-labored
CV: RRR
ABD: soft, NT/ND
EXT: No edema, no cyanosis
SKIN: no rashes or lesions noted.

NEURO EXAM:
MS:
Alert, oriented x 3.
Able to relate history without difficulty.
Attentive
Language is fluent with intact repetition and comprehension.
Normal prosody.
There were no paraphasic errors.
Dysarthric.
Able to follow both midline and appendicular commands.
No evidence of apraxia or neglect.

CN:
II:
PERRLA 3 to 2mm and brisk.
III, IV, VI: EOMI, no nystagmus. Normal saccades.
V: Sensation intact to LT.
VII: Facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate rise symmetric.
XI: Trapezius and SCM ___ bilaterally.
XII: Tongue protrudes midline.

Motor:
Normal bulk, tone throughout. Mild drift of RUE with 
outstretched
arms, no pronation.
No adventitious movements. No asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L   ___   ___  ___    ___      5   5
R   ___   ___  ___    ___      5   5

Sensory: No deficits to light touch, proprioception throughout.
No extinction to DSS.

Reflexes:
  ___ Tri ___ Pat Ach
L  ___     2   1
R  ___     2   1
Toes upgoing bilaterally

Coordination:
Ataxia on FNF R>L. Mild ataxia bilaterally on HKS.

=========================================================
DISCHARGE EXAMINATION:
VItals: Tm 99.8 Tc 98.4 BP 133-152/73-92 HR ___ RR ___ POX 
95% on 35% FiO2
GEN: Awake, cooperative
HEENT: Trach with trach mask ___ place
CV: RRR s1 s2
PULM: bibasilar dry crackles on anterior auscultation.
ABD: soft, NT/ND, + PEG ___ place, c/d/i, non erythematous
EXT: No edema, no cyanosis

NEURO EXAM:
MS:  Alert, regards to examiner.  Nods yes/no appropriately. 
Does not vocalize.  Able to follow commands to squeeze right 
hand, show two fingers, lift right arm & leg. He is also playing 
word finds with his wife and communicating via yes no options.

CRANIAL NERVES:
II: 3 mm reactive sluggish pupils bilaterally
III, IV, VI: skew deviation. Right eye midline on primary gaze 
with minimal movements (minimal downgaze is present).  Left eye 
is exotropic on primary gaze with restricted movements (he 
adducts and only partially abducts).  
V: Sensation intact to light touch.
VII: Left lower facial droop.
VIII: Hearing intact
IX, X: + cough, gag
XI: Trapezius and SCM ___ bilaterally.
XII: Tongue midline.

MOTOR: Normal bulk.  Tone is decreased ___ left upper and lower 
extremities, normal on the right.  RUE/RLE moves to command ___ 
throughout.  LLE with trace toe wiggle and quad activation with 
concerted effort.  LUE with trace shoulder movement, otherwise 
plegic on this left arm.  Right side with full strength. 

SENSORY: Intact to light touch on both arms and legs

Reflexes: Right arm brisker than the left. Crossed adduction on 
tapping left patellar.  Toes upgoing bilaterally
 
Pertinent Results:
======================================
ADMISSION LABS:
___ 07:58AM   WBC-13.9* RBC-4.45* HGB-13.8* HCT-41.2 MCV-93 
MCH-31.1 MCHC-33.5 RDW-12.3
___ 07:58AM   PLT COUNT-262
___ 09:10PM   GLUCOSE-142* UREA N-9 CREAT-0.8 SODIUM-141 
POTASSIUM-3.1* CHLORIDE-101 TOTAL CO2-28 ANION GAP-15
___ 09:10PM   CALCIUM-9.3 PHOSPHATE-1.5* MAGNESIUM-1.9
___ 09:10PM   PTT-49.9*
___ 07:58AM   CK(CPK)-256
___ 07:58AM   CK-MB-3 cTropnT-<0.01

URINE: 
___ 02:37PM URINE Color-Yellow Appear-Clear Sp ___ 
Blood-NEG Nitrite-NEG Protein-NEG Glucose-150 Ketone-TR 
Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

======================================

DISCHARGE LABS:
___ 03:05AM BLOOD WBC-15.1* RBC-4.05* Hgb-12.5* Hct-38.0* 
MCV-94 MCH-31.0 MCHC-33.0 RDW-12.8 Plt ___
___ 09:24AM BLOOD ___ PTT-61.0* ___
___ 03:05AM BLOOD Glucose-182* UreaN-17 Creat-0.9 Na-138 
K-4.0 Cl-100 HCO3-31 AnGap-11
___ 03:05AM BLOOD Calcium-10.0 Phos-4.4 Mg-2.1
___ 09:20AM BLOOD ALT-34 AST-29 AlkPhos-55 TotBili-0.4

URINE: 
___ 11:17AM URINE Color-Straw Appear-Clear Sp ___ 
Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

======================================

MICROBIOLOGY: 
___ URINE URINE CULTURE- no growth.

___ 1:15 am SPUTUM      Source: Endotracheal. 
   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 
   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         ____________________________________                    
         STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

.
.
.
.
.
.
.
.
................................................................

___ 2:18 pm SPUTUM      Source: Endotracheal. 
   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENTWITH     
                                    OROPHARYNGEAL FLORA. 
   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

___ Blood Culture, Routine-PENDING INPATIENT 
___ Blood Culture, Routine-PENDING INPATIENT 
___ URINE CULTURE (Final ___:    NO GROWTH.

===========================================================
IMAGING: 

CTA Head and Neck ___:
1. Subtle small scattered small hypodensities within the 
cerebellum and 
brainstem, better evaluated on recent prior MRI of the head, 
consistent with acute infarctions ___ the posterior circulation. 
2. Complete occlusion of the mid to distal basilar artery with 
absence of 
right superior cerebellar and anterior inferior cerebellar 
arteries. There is severe atherosclerotic disease of the left 
vertebral artery and basilar artery with irregularity of the V4 
segment of the left vertebral artery. Findings are consistent 
with complete occlusion secondary to severe atherosclerotic 
disease. 
3. Diffuse irregularity ___ the intracranial arteries, 
particularly at the 
right M2 segment and bilateral carotid siphons, without evidence 
of high-grade narrowing. 
4. Diffuse moderate atherosclerosis of the neck vasculature with 
narrowing of the bilateral internal carotid artery origins, 22% 
on the right and 10% on the left, but NASCET criteria. 

TTE ___
The left atrial volume index is mildly increased. No atrial 
septal defect or patent foramen ovale is seen by 2D, color 
Doppler or saline contrast with maneuvers. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and global systolic function (LVEF>60%). Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. Normal global 
biventricular systolic function. No cardiac source of embolism 
seen. No pathologic valvular abnormalities..

ECHO ___
Sinus rhythm. Left atrial abnormality. A-V conduction delay. 
Compared to the previous tracing of ___ no diagnostic 
interim change. 
  
NCHCT ___
Redemonstrated is hyperdensity of the basilar artery, 
particularly 
at the terminus with extensive calcification, consistent with 
patient's known  thrombus within the basilar artery.  There 
appears to be interval progression of hypodensity along the 
midbrain and cerebellum, concerning for worsening ischemia ___ 
these regions.  No acute hemorrhage is identified.  The basilar 
cisterns are patent.  There is no evidence of herniation. No 
acute fracture is identified.  Secretions are seen ___ the 
oropharynx. There is mucosal thickening of the maxillary sinuses 
bilaterally.  The frontal sinuses and sphenoid sinuses 
demonstrate mild air-fluid levels and mucosal thickening. The 
mastoid air cells and middle ear cavities are clear. IMPRESSION: 
Interval progression of hypodensity ___ the midbrain and 
cerebellum is concerning for worsening ischemia.  No evidence of 
herniation. 

CXR ___: Compared to the prior radiographs the lung volumes are 
stable. There is no focal opacity, pleural effusion or 
pneumothorax. The cardiomediastinal contours are stable. 

CXR ___: 
___ comparison with the earlier study of this date, of the 
endotracheal tube has been removed and replaced with a 
tracheostomy tube that appears to be well as positioned without 
evidence of complication. The patient is somewhat oblique when 
compared to the previous study. This may account for the 
apparent increased opacification at the right base. There does 
appear to be some relative elevation of the right 
hemidiaphragmatic contour.  A ___ the appropriate clinical 
setting, the possibility of volume loss ___ the right lower lung 
could be considered. 

CXR ___: 
Tracheostomy tube appears ___ unchanged position. As does 
right-sided PICC 
line. The lungs remain clear with no focal consolidation to 
suggest pneumonia. Central pulmonary vasculature is full but 
less so than on the ___ film and no peripheral edema is 
evident. 
 
Brief Hospital Course:
___ HOSPITAL COURSE

Mr. ___ was admitted to the neurology ICU after being found to 
have a basilar artery thrombus resulting ___ several small 
ischemic strokes, ___ the bilateral cerebellar hemispheres as 
well as a right thalamic infarct, and question of right 
transverse sinus thrombosis on MRV (now thought to simply be a 
fenestration).

He was started on a heparin gtt for PTT goal of 50-70. He was 
placed with HOB flat with goal BP 140-180. He did well 
initially, on exam with gaze-evoked nystagmus bilaterally, and 
bilateral ataxia, although full strength. However, around 5pm on 
the day of admission, he was found to be somnolent with new 
onset skew deviation (left eye down and right eye with severely 
restricted eye movements), pinpoint pupils and left-sided 
weakness. Neosynephrine was started for goal SBP 180-200. He was 
taken for STAT NCHCT and CTA and neurosurgery was called. NCHCT 
showed new midbrain/pontine infarcts, and CTA was unchanged. 
Neurosurgery did not want to intervene given the time frame 
since onset and the very high risk of embolizing more thrombus 
with manipulation.  Lipid panel showed LDL 81. HbA1c 7.0%. TTE 
wnl.

___ the setting of the new infarct, he developed worsening 
repiratory status and by ___ had acute desaturations to the ___ 
requiring intubation.  BAL done on ___ grew out pan-sensitive 
coag positive staph aureus and he was placed on IV antibiotics 
(vanc/cefepime weaned to levofloxaxin)  He remained intubated on 
minimal ventilator settings but an attempt at extubation ___ 
failed.  He is s/p trach/PEG on ___.  

He was off pressor since ___, maintaining sBP > 140's.  Exam 
continued to improve and he was transferred to the floor on ___. 
  

========================================

STROKE NEUROLOGY FLOOR COURSE (by systems)

# NEUROLOGY: 
With regards to his stroke, he continued to show improvement 
with signs of subtle movement on the left side.  He would also 
engage with the examiner (please see above for most recent 
exam).  For anticoagulation, he was maintained on heparin gtt 
(PTT goal 50-70) and coumadin was started with first dose given 
___.  His INR was 1.9 on discharge (not at goal of ___.  PLease 
stop heparin once INR ___. His blood pressure goals were 
liberalized to 110-180 and he did not require medications to 
achieve this.  His activity level was liberalized as well. His 
atorvastatin was continued.  

# ___ :
His home antihypertensives were not restarted give liberal blood 
pressure goals of 110-180.  He was maintained on atorvastatin.  
Systemic anticoagulation as described above.

# PULMONARY: 
Trach was placed ___ ICU. His Levofloxacin was continued to treat 
his known MSSA PNA.  This should continue through ___. 

# ID: 
He did spike a fever on ___ (with leukocytosis that had remained 
___ during entire hospital course).  Repeat panculture and CXR 
did not show new infection and PNA was not seen on CXR.  
Antibiotics were not rebroadened and there were no subsequent 
fevers.  He continued on Levofloxacin at time of discharge.  
Blood cultures were negative x 48hrs at time of discharge (other 
work-up returned negative as final result). 

# NUTRITION: PEG was placed ___ ICU.  He continued to tolerate 
tube feeds 

# ACCESS: PICC on right arm

=============================================

TRANSITIONAL ISSUES: 
1) Continue heparin gtt with goal PTT 50-70 as part of a bridge 
to therapeutic INR (___).  Once INR therapeutic, please STOP 
heparin drip.
2) Please check INR daily until 3 consecutive INRs are between 
___ and then can check INR every third day. 
3) Continue levofloxacin through ___ for treatment of MSSA PNA
4) Respiratory care for trach
5) Tube feeding recommendations are enclosed ___ this packet
6) Stroke neurology follow-up with Dr. ___.
     Department: NEUROLOGY
     When: ___ at 2:00 ___
     With: ___
     Building: ___
     Campus: ___ Best Parking: ___

====================================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) 
2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes 
4. LDL documented (required for all patients)? (x) Yes (LDL = 
81) 
5. Intensive statin therapy administered? (x) Yes atorvastatin 
40mg 
6. Smoking cessation counseling given? (x) No [if no, reason: 
(x) non-smoker 
7. Stroke education given (written form ___ the discharge 
worksheet)? (x) Yes (stroke education = personal modifiable risk 
factors, how to activate EMS for stroke, stroke warning signs 
and symptoms, prescribed medications, need for followup)
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes 
9. Discharged on statin therapy? (x) Yes 
10. Discharged on antithrombotic therapy? (x) Yes - systemic 
Anticoagulation
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes 
====================================================
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. lisinopril-hydrochlorothiazide 40-25 mg oral DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
2. Atorvastatin 40 mg PO DAILY 
3. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
4. Docusate Sodium 100 mg PO BID constipation 
5. Heparin IV 
     No Initial Bolus
     Initial Infusion Rate: 2100 units/hr
     Start: ___, First Dose: 1600 
     Check PTT Q6hrs. Goal 50-70. 
6. Insulin SC Sliding Scale Fingerstick QACHS, HS
       Insulin SC Sliding Scale using REG Insulin
7. Levofloxacin 750 mg IV Q24H Duration: 3 Days Through ___. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
9. Nystatin Oral Suspension 5 mL PO QID 
10. Senna 8.6 mg PO BID constipation 
11. Warfarin 7.5 mg PO DAILY16 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- Basilar thrombosis 
- Ischemic stroke (infarcts ___ the cerebellum, pons, and 
midbrain)
- MSSA pneumonia
- Hypertension
- Diabetes mellitus
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of slurred speech, 
dizziness, difficulty moving your eyes, and left sided weakness. 
These symptoms were the result of an ACUTE ISCHEMIC STROKE, a 
condition ___ which a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result ___ a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
___ order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High blood pressure
High cholesterol
Diabetes

We are changing your medications as listed below. 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). ___ particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake

It was a pleasure providing you with care during this 
hospitalization.

 
Followup Instructions:
___